* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\3_nor\3_nor.cir

* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ d_nor
* u3  net-_u2-pad3_ net-_u1-pad3_ net-_u1-pad4_ d_nor
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ port
a1 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u2-pad3_ u2
a2 [net-_u2-pad3_ net-_u1-pad3_ ] net-_u1-pad4_ u3
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u2 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u3 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
